US04277492
A mixture of 25.75 grams (g) (0.15 mole) of sulfanilic acid in 450 milliliters (ml) of water, 37 g (0.46 mole) of 50 percent sodium hydroxideand 58.3 g (0.34 mole) of 3-nitrobenzyl chloride was stirred and heated to about 90° C. for 31/2 hours, during which time the reaction mixtureturned from a milky yellow to a reddish brown color. The solution was allowed to cool overnight and the resulting solid isolated by vacuum filtration. The solid was washed thoroughly with diethyl ether to remove excess 3-nitrobenzyl chloride, leaving 20.0 g of sodium 4-(bis((3-nitrophenyl)methyl)-amino)benzenesulfonate as shiny, yellow flakes having a melting point greater than 275° C. A 14.7 g portionof the sodium 4-(bis((3-nitrophenyl)methyl)amino)-benzenesulfonate was heated to 65° C. in approximately 350 ml of absolute ethanol and then acidified with concentrated hydrochloric acid. Upon cooling to room temperature, a solid crystallized which was recovered by vacuum filtrationto give 10.0 g of 4-(bis((3-nitrophenyl)methyl)amino)benzenesulfonic acid as light tan crystals which decomposed at 226°-228° C.

reactant | sodium 4-(bis((3-nitrophenyl)methyl)amino)-benzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)CN(C1=CC=C(C=C1)S(=O)(=O)[O-])CC1=CC(=CC=C1)[N+](=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | approximately 350 ml | C(C)O | C2H6O
product | 4-(bis((3-nitrophenyl)methyl)amino)benzenesulfonic acid | 10.0 g | [N+](=O)([O-])C=1C=C(C=CC1)CN(C1=CC=C(C=C1)S(=O)(=O)O)CC1=CC(=CC=C1)[N+](=O)[O-] | C20H17N3O7S
